US08334305B2
4-{2-[3-(5-Hydroxymethyl-adamantan-2-ylcarbamoyl)-phenoxy]-ethyl}-piperidine-1-carboxylic acid isopropylamide
Prepared from 3-[2-(1-isopropylcarbamoyl-piperidin-4-yl)-ethoxy]-benzoic acid and 4-amino-1-hydroxymethyladamantane to give the title compound as a mixture of two isomers. 1H NMR (400 MHz, CDCl3) δ: 7.30-7.37 (m, 2H), 7.23-7.29 (m, 1H), 7.02 (d, 1H), 6.32-6.43 (m, 1H), 4.16-4.24 (m, 1H), 4.06 (t, 2H), 3.94-4.02 (m, 1H), 3.91 (d, 2H), 3.26 (d, 2H), 2.77 (t, 2H), 2.11-2.19 (m, 2H), 1.99-2.05 (m, 1H), 1.41-1.94 (m, 15H), 1.18-1.29 (m, 2H), 1.15 (d, 6H).

reactant | 3-[2-(1-isopropylcarbamoyl-piperidin-4-yl)-ethoxy]-benzoic acid | C(C)(C)NC(=O)N1CCC(CC1)CCOC=1C=C(C(=O)O)C=CC1 | C18H26N2O4
reactant | 4-amino-1-hydroxymethyladamantane | NC1C2CC3(CC(CC1C3)C2)CO | C11H19NO
product | 4-{2-[3-(5-Hydroxymethyl-adamantan-2-ylcarbamoyl)-phenoxy]-ethyl}-piperidine-1-carboxylic acid isopropylamide | C(C)(C)NC(=O)N1CCC(CC1)CCOC1=CC(=CC=C1)C(NC1C2CC3CC(CC1C3)(C2)CO)=O | C29H43N3O4
